US06989401B2
(3) Nα-(tert-butoxycarbonyl)-L-tyrosine N-methylamide
To a solution of N-(tert-butoxycarbonyl)-L-tyrosine (300 g, 1.07 mol) in DMF (2 L) were successively added methylamine hydrochloride (86.4 g, 1.28 mol), 1-hydroxybenzotriazole monohydrate (163 g, 1.07 mol, hereinafter to be abbreviated as HOBt.H2O), N-methylmorpholine (258 mL, 2.35 mol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (245 g, 1.28 mol, hereinafter to be abbreviated as WSCI.HCl), under ice-cooling (internal temperature 10° C.). The reaction mixture was stirred for 70 hr while gradually raising the temperature to room temperature. The reaction mixture was poured into iced water (10 L), and the precipitate was collected by filtration and washed with water and ether. The obtained precipitate was recrystallized from ethyl acetate (7 L) to give the title compound (265 g, 84%) as white crystals.

reactant | N-(tert-butoxycarbonyl)-L-tyrosine | 1.07 mol, 300 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | methylamine hydrochloride | 1.28 mol, 86.4 g | Cl.CN
reactant | 1-hydroxybenzotriazole monohydrate | O.ON1N=NC2=C1C=CC=C2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 2.35 mol, 258 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | WSCI.HCl | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 2 L | CN(C)C=O | C3H7NO
solvent | water | 10 L | O | H2O
product | Nα-(tert-butoxycarbonyl)-L-tyrosine N-methylamide | 265 g, 84% | CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H22N2O4
